US04363909
5 N Aqueous sodium hydroxide (20 cc) is added to a solution of (S)-3-{[4-(4-methoxycarbonylbutyl)-thiazol-2-yl]imino}-1,5,10,10a-tetrahydrothiazolo[3,4-b]-isoquinoline (7.4 g) in ethanol (60 cc). The mixture is heated under reflux for 2 hours. After cooling to 20° C., it is acidified by adding 12 N hydrochloric acid (d=1.19; 10 cc). Diethyl ether (30 cc) is added and the mixture is cooled to 0° C. The resulting precipitate is filtered off, washed with water (4×15 cc), ethanol (2×10 cc) and diethyl ether (2×30 cc) and crystallised by dissolving it in boiling propan-2-ol (200 cc) and cooling to 0° C. The resulting crystals are filtered off, washed with propan-2-ol (20 cc) and diethyl ether (50 cc) and dried at 45° C. under reduced pressure (0.1 mm Hg; 0.013 kPa) to yield (S)-3-{[4-(4-carboxybutyl)thiazol-2-yl]imino}-1,5,10,10a-tetrahydrothiazolo[3,4-b]isoquinoline hydrochloride (4.9 g), m.p.=214° C.

reactant | sodium hydroxide | 5 N, 20 cc | [OH-].[Na+]
reactant | (S)-3-{[4-(4-methoxycarbonylbutyl)-thiazol-2-yl]imino}-1,5,10,10a-tetrahydrothiazolo[3,4-b]-isoquinoline | 7.4 g | COC(=O)CCCCC=1N=C(SC1)N=C1SC[C@H]2N1CC=1C=CC=CC1C2 | C20H23N3O2S2
reactant | hydrochloric acid | 12 N, 10 cc | Cl | ClH
reactant | Diethyl ether | 30 cc | C(C)OCC | C4H10O
solvent | ethanol | 60 cc | C(C)O | C2H6O
product | (S)-3-{[4-(4-carboxybutyl)thiazol-2-yl]imino}-1,5,10,10a-tetrahydrothiazolo[3,4-b]isoquinoline hydrochloride | 4.9 g | Cl.C(=O)(O)CCCCC=1N=C(SC1)N=C1SC[C@H]2N1CC=1C=CC=CC1C2 | InChI=1S/C19H21N3O2S2.ClH/c23-17(24)8-4-3-7-15-11-25-18(20-15)21-19-22-10-14-6-2-1-5-13(14)9-16(22)12-26-19;/h1-2,5-6,11,16H,3-4,7-10,12H2,(H,23,24);1H/t16-;/m0./s1
